US08357706B2
Prepared using General Procedure 2. To a stirring solution of 3-cyano-4-isopropoxybenzoic acid (556 mg, 2.72 mmol) in DMF (10 mL) was added HOBt (476.6 mg, 3.53 mmol) and EDCI (677.9 mg, 3.53 mmol). After stirring for 30 min, (S)-tert-butyl (5-(N-hydroxycarbamimidoyl)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate INT-10 (3.56 g crude, approximately 2.99 mmol) was added. After stirring at room temperature for an additional 90 min, the mixture was heated to 90° C. for 15 h. The mixture was diluted with EA and washed with NaHCO3. The combined organic layers were dried, concentrated, and chromatographed (EA/hexanes) to provide 1.89 g (46%) (S)-tert-butyl (5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate INT-12 as a white solid. LCMS-ESI (m/z) calculated for C27H30N4O4: 474.6; no M/Z observed, tR=4.23 min. 1H NMR (400 MHz, CDCl3) δ 8.42 (d, J=2.1 Hz, 1H), 8.33 (dd, J=8.9, 2.2 Hz, 1H), 7.92 (dd, J=7.7, 1.1 Hz, 1H), 7.56 (d, J=7.6 Hz, 1H), 7.32 (dd, J=20.3, 12.6 Hz, 1H), 7.12 (d, J=9.0 Hz, 1H), 4.94 (d, J=6.0 Hz, 1H), 4.88-4.72 (m, 1H), 3.23-3.08 (m, 1H), 3.07-2.94 (m, 1H), 2.06 (d, J=12.6 Hz, 1H), 1.97-1.78 (m, 3H), 1.53-1.43 (m, 15H). 13C NMR (101 MHz, CDCl3) δ 172.64, 169.40, 162.69, 155.43, 138.65, 137.55, 134.04, 133.83, 131.68, 129.55, 126.08, 125.97, 116.74, 115.20, 113.53, 103.87, 79.44, 72.69, 48.97, 29.73, 28.40, 21.68, 19.71, 14.14.

reactant | 3-cyano-4-isopropoxybenzoic acid | 2.72 mmol, 556 mg | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | HOBt | 3.53 mmol, 476.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 3.53 mmol, 677.9 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-tert-butyl (5-(N-hydroxycarbamimidoyl)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate | ONC(=N)C1=C2CCC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C16H23N3O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | (S)-tert-butyl (5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate | 1.89 g, 46% | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C27H30N4O4
